US07531553B2
TFA (0.57 mL) was added to a suspension of 4-chloroquinoline (0.48 mg, 2.9 mmol) and 4-amino-2-nitrophenol (0.45 g, 2.9 mmol) in i-PrOH (4 mL) was added at RT. The reaction was heated to 130° C. in a sealed tube for 2 h. A solid precipitated upon cooling. The solid was filtered out and washed with i-PrOH to give 2-nitro-4-(quinolin-4-ylamino)-phenol.

reactant | TFA | 0.57 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-chloroquinoline | 2.9 mmol, 0.48 mg | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 4-amino-2-nitrophenol | 2.9 mmol, 0.45 g | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
solvent | i-PrOH | 4 mL | CC(C)O | C3H8O
product | 2-nitro-4-(quinolin-4-ylamino)-phenol | [N+](=O)([O-])C1=C(C=CC(=C1)NC1=CC=NC2=CC=CC=C12)O | C15H11N3O3
